US06846946B2
Benzyl Acrylate
A mixture consisting of sodium acrylate (1.892 g, 20 millimoles, Aldrich, 97%), sodium iodide (0.298 g, 2 millimoles, Aldrich, 98%), and water (200.35 g) was introduced into a three-necked 500 mL flask. The flask was immersed into a water bath kept at 45° C. and the mixture was stirred mechanically (600 rpm, photo-tachometer). Next, an organic phase comprising benzyl chloride (10.128 g, 80 millimoles, Aldrich, 97%), Aliquat 336 (1.29 g, 3 millimoles, Aldrich), butyl acrylate (GC standard, 0.690 g, 5 millimoles, Aldrich, 99+%), and 2,6-di-t-butyl-4-methylphenol (0.045 g, 0.2 millimoles, Aldrich, 99+%) was added to the reactor and the mixture was stirred for 180 minutes at constant temperature. The organic phase:aqueous phase weight ratio was 1:17. The aliquot of the reaction mixture was centrifuged, the phases were separated and the organic phase was injected into the gas chromatographic column. The yield of benzyl acrylate based on the limiting reactant (sodium acrylate) was 59%. The only byproduct detectable in the reaction mixture was benzyl alcohol (less than 3%).

reactant | sodium acrylate | 20 millimoles, 1.892 g | C(C=C)(=O)[O-].[Na+]
reactant | sodium iodide | 2 millimoles, 0.298 g | [I-].[Na+]
reactant | benzyl chloride | 80 millimoles, 10.128 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | butyl acrylate | 5 millimoles, 0.690 g | C(C=C)(=O)OCCCC | C7H12O2
reactant | 2,6-di-t-butyl-4-methylphenol | 0.2 millimoles, 0.045 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
catalyst | Aliquat 336 | 3 millimoles, 1.29 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | 200.35 g | O | H2O
product | Benzyl Acrylate | C(C=C)(=O)OCC1=CC=CC=C1 | C10H10O2
